US08017604B2
Step 2: 4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid (5-morpholin-4-yl-2-phenyl-imidazo[1,2-c]pyrimidin-7-yl)-amide
Under an atmosphere of nitrogen, N—N-diisopropylethylamine (121 mg) and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU, 120 mg) were added to a solution of 4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid (50 mg, 0.31 mmol, Art-Chem B000148) in DMF (3 ml). After 30 min, 5-morpholin-4-yl-2-phenyl-imidazo[1,2-c]pyrimidin-7-ylamine (110 mg, 0.37 mmol) was added, and the black solution was stirred at r.t. overnight. The reaction mixture was taken up in ethyl acetate and washed with water. After drying (Na2SO4), the solvent was evaporated and the title compound (2 mg, 1.1%) was isolated by preparative, inverse-phase HPLC (Agilent Zorbax XdB-C18 column, time per run ˜7 min, flow rate 30 ml/min, solvent gradient H2O/CH3CN=95:5-5:95). MS (m/e)=438.2 [M+H+].

reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 120 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid | 0.31 mmol, 50 mg | ClC1=C(N(N=C1)C)C(=O)O | C5H5ClN2O2
reactant | 5-morpholin-4-yl-2-phenyl-imidazo[1,2-c]pyrimidin-7-ylamine | 0.37 mmol, 110 mg | N1(CCOCC1)C1=NC(=CC=2N1C=C(N2)C2=CC=CC=C2)N | C16H17N5O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid (5-morpholin-4-yl-2-phenyl-imidazo[1,2-c]pyrimidin-7-yl)-amide | 2 mg, 1.1% | N1(CCOCC1)C1=NC(=CC=2N1C=C(N2)C2=CC=CC=C2)NC(=O)C=2N(N=CC2Cl)C | C21H20ClN7O2
